* AD633 Four-Quadrant Analog Multiplier Macromodel
* Transfer function: W = (X1-X2)(Y1-Y2)/10V + Z
* Pins: X1 X2 Y1 Y2 Z W VP VN
* Key specs: BW=1MHz, Output swing=+/-11V @ +/-15V supply
*
.SUBCKT AD633 X1 X2 Y1 Y2 Z W VP VN
* Multiplier core with /10V scaling
B1 mult_out 0 V = (V(X1)-V(X2))*(V(Y1)-V(Y2))/10 + V(Z)
* Bandwidth limiting (single pole at 1MHz)
R1 mult_out filt 1k
C1 filt 0 159.15e-12
* Output buffer
Eout out_int 0 filt 0 1
Rout out_int W 75
* Output clamping to +/-11V
D1 W clamp_hi DCLAMP
D2 clamp_lo W DCLAMP
V1 VP clamp_hi 4
V2 clamp_lo VN 4
.MODEL DCLAMP D(IS=1e-12 RS=1 BV=100)
.ENDS AD633
