* LT1057 Op-Amp Behavioral Macromodel
* Pins: IN+ IN- VCC VEE OUT
* Key specs: GBW=5MHz, Slew=15V/us, Avol=200k, Rin=1T, Rout=75
*
.SUBCKT LT1057 INP INN VCC VEE OUT
* Input stage - high impedance differential pair
Rin INP INN 1e12
* Differential gain with dominant pole at ~25Hz (GBW/Avol = 5e6/2e5)
Gm1 0 int1 INP INN 1e-3
R1 int1 0 200e6
C1 int1 0 31.83e-12
* Output stage with finite output resistance
Eout out_int 0 int1 0 1
Rout out_int OUT 75
* Output voltage clamping to supply rails (with ~1.5V dropout)
D1 OUT clamp_hi DCLAMP
D2 clamp_lo OUT DCLAMP
V1 VCC clamp_hi 1.5
V2 clamp_lo VEE 1.5
.MODEL DCLAMP D(IS=1e-12 RS=1 BV=100)
* Supply current (quiescent ~5mA)
Icc VCC VEE 5e-3
.ENDS LT1057
