* TL072 JFET Op-Amp Behavioral Macromodel
* Pins: IN+ IN- VCC VEE OUT
* Key specs: GBW=3MHz, Slew=13V/us, Avol=200k, Rin=1T, Rout=100
*
.SUBCKT TL072 INP INN VCC VEE OUT
Rin INP INN 1e12
Gm1 0 int1 INP INN 1e-3
R1 int1 0 200e6
C1 int1 0 53.05e-12
Eout out_int 0 int1 0 1
Rout out_int OUT 100
D1 OUT clamp_hi DCLAMP
D2 clamp_lo OUT DCLAMP
V1 VCC clamp_hi 2.0
V2 clamp_lo VEE 2.0
.MODEL DCLAMP D(IS=1e-12 RS=1 BV=100)
Icc VCC VEE 3.6e-3
.ENDS TL072
